US04652554
A solution of 1-(2-O-nitro-β-D-arabinofuranosyl)cytosine [6.6 g., 23 mmol. which was a white foam that was homogeneous by TLC (upper phase of 4:2:1=ethyl acetate:H2O:1-propanol)] in methanol was acidified with concentrated hydrochloric acid until the pH of the solution was ~1.0. A white solid began to separate immediately. The solvent was removed under reduced pressure, and the resulting residue was coevaporated with methanol (3×200 ml). The product thus obtained was dried in vacuo and crystallized from a mixture of 1:1=absolute ethanol: 96% ethanol. The crystals were collected by centrifugation to obtain pure 1-(2-O-nitro-β-D-arabinofuranosyl)cytosine hydrochloride (4.83 g., 65%): m.p.>170° C. dec. The salt had these physical characteristics:

reactant | 1-(2-O-nitro-β-D-arabinofuranosyl)cytosine | [N+](=O)([O-])O[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C9H12N4O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | H2O | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | 1-propanol | C(CC)O | C3H8O
product | 1-(2-O-nitro-β-D-arabinofuranosyl)cytosine hydrochloride | 4.83 g, 65% | Cl.[N+](=O)([O-])O[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | InChI=1S/C9H12N4O7.ClH/c10-5-1-2-12(9(16)11-5)8-7(20-13(17)18)6(15)4(3-14)19-8;/h1-2,4,6-8,14-15H,3H2,(H2,10,11,16);1H/t4-,6-,7+,8-;/m1./s1
